US06685995B1
In 30 ml of dichloromethane were dissolved 2.2 g (11 mmol) of 4-(4-ethylcyclohexyl)cyclohexanol, 1.9 g (20 mmol) of difluoroacetic acid, and 0.8 g (8 mmol) of triethylamine, and this solution was cooled down to 0° C. To this solution was added dropwise 15 ml of solution of 2.4 g (12 mmol) of dicyclohexylcarbodiimide (DCC) in dichloromethane, and the mixture was stirred at the same temperature for 1 hour and then at room temperature for 17 hours. After the crystals in the suspension thus obtained were filtered off, the solvent was distilled off under a reduced pressure. After the residue was purified by column chromatography on silica gel (eluent: heptane/toluene=1/1), the solvent was distilled off, and the residue was subjected twice to recrystallization to give 1.4 g (4.9 mmol) of difluoro-acetic acid 4-(4-ethylcyclohexyl)-cyclohexyl ester. Yield of this compound based on 4-(4-ethylcyclohexyl)cyclohexanol was 45%.

reactant | 4-(4-ethylcyclohexyl)cyclohexanol | 11 mmol, 2.2 g | C(C)C1CCC(CC1)C1CCC(CC1)O | C14H26O
reactant | difluoroacetic acid | 20 mmol, 1.9 g | FC(C(=O)O)F | C2H2F2O2
reactant | triethylamine | 8 mmol, 0.8 g | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 12 mmol, 2.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | difluoro-acetic acid 4-(4-ethylcyclohexyl)-cyclohexyl ester | 4.9 mmol, 1.4 g | C(C)C1CCC(CC1)C1CCC(CC1)OC(C(F)F)=O | C16H26F2O2
